US08420823B2
(Step 1) Production of 3-(pyridin-2-ylthio)benzoic acid
Xantphos (3.75 g) and Pd2(dba)3 (2.97 g) were added in that order to a dioxane (150 mL) solution of 2-iodopyridine (7.31 g), 3-mercaptobenzoic acid (5.0 g) and N,N-diisopropylethylamine (11.30 mL), and stirred overnight in a nitrogen atmosphere at 100° C. After left cooled, the reaction solution was evaporated under reduced pressure, then ethyl acetate was added to the residue, washed three times with aqueous saturated ammonium chloride solution, and dried with sodium sulfate. The drying agent was removed through filtration, and the solvent was evaporated off under reduced pressure. The residue was purified through silica gel column chromatography (methanol/chloroform=from 0% to 20%, gradient) to give the intended product (4.95 g, 66%) as a brown solid.

reactant | Xantphos | 3.75 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-iodopyridine | 7.31 g | IC1=NC=CC=C1 | C5H4IN
reactant | 3-mercaptobenzoic acid | 5.0 g | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | N,N-diisopropylethylamine | 11.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | Pd2(dba)3 | 2.97 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 3-(pyridin-2-ylthio)benzoic acid | 4.95 g, 66% | N1=C(C=CC=C1)SC=1C=C(C(=O)O)C=CC1 | C12H9NO2S
